*****************************************************************
* NXP BUK7Y22-100E
*
* Polarity N-Channel
* Ratings 100V/2.200000E-002OHMS/49.1240674160646A
*
* Date Created Mon Feb 04 07:48:44 2013
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK7Y22-100E DRAIN GATE SOURCE

LD DRAIN 5 2e-11
RLD2 DRAIN 5 0.0502654824574367
RLD1 5 4 2e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 5e-10
RLS2 SOURCE 8 1.25663706143592
RLS1 8 7 0.00018

RDS 7 4 100000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.0128600359558292 TC=0.00574820380062813,3.55754885710765E-05
RBD 9 4 0.00405663547214532 TC=0.00574820380062813,3.55754885710765E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 200000000
CGS 2 6 2.04e-09
RG 1 2 1.88330576181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -12	2233.65
+ -10	2231.05
+ -8	2227.11
+ -6	2219.4
+ -5	2208.42
+ -4	2171.02
+ -3	2252.65
+ -2	1968.45
+ -1	1637.02
+ -0.5	1424.94
+ -0.2	1270.79
+ -0.1	1266.43
+ 0	1132.59954
+ 0.1	942.17856
+ 0.2	941.15792
+ 0.5	758.8804
+ 1	624.0054
+ 2	470.85504
+ 3	392.10412
+ 4	346.36944
+ 5	313.79728
+ 6	289.73688
+ 8	256.30228
+ 10	233.43612
+ 12	216.2754
+ 15	197.07484
+ 16	191.58548
+ 20	174.88472
+ 25	159.4518
+ 30	147.83152
+ 50	119.69848



.MODEL MINT NMOS(Vto=3.84896879073148 Kp=1.288281e+002 Nfs=720000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=110 Ibv=2.500000E-004 Rs=1E-6 Is=3.64703152096177e-13
+ N=1 M=0.65 VJ=0.5 Fc=0.5 Cjo=7.1936452e-10 Tt=2.772e-08)

.ENDS

